US04960766
Concentrated hydrochloric acid (0.353 ml) was added to a mixture of bis(trifluoroacetic acid) salt of 7β-amino-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (0.565 g) in tetrahydrofuran (3 ml) and methanol (3 ml) at ambient temperature. After being stirred at the same temperature for 12 hours, the mixture was added dropwise to ethyl acetate (100 ml). The resulting precipitate was collected by filtration to give 7β-amino-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride (292 mg).

reactant | hydrochloric acid | 0.353 ml | Cl | ClH
reactant | 7β-amino-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.565 g | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)C)C(=O)[O-])C1=O | C13H15N5O4S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
product | 7β-amino-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride | 292 mg | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O | InChI=1S/C12H15N5O3S.3ClH/c1-15-7(13)2-3-16(15)4-6-5-21-11-8(14)10(18)17(11)9(6)12(19)20;;;/h2-3,8,11,13H,4-5,14H2,1H3,(H,19,20);3*1H/t8-,11-;;;/m1.../s1
